US06194487B1
The base particles, along with helium gas, were cooled and introduced through the particle intake 4 into the vapor atmosphere of sebacoyl chloride in the mixing section 22. Next, in the mixing section 22, the vapor of sebacoyl chloride was cooled, and the introduced base particles were exposed thereto for 2 minutes. Consequently, a polymerization reaction, using as a catalyst triethylamine contained in the base particles, took place on the surface of the base particles between sebacoyl chloride and ethylene glycol, forming a film of ethylene glycol-sebacoyl chloride co-polymer.

reactant | sebacoyl chloride | C(CCCCCCCCC(=O)Cl)(=O)Cl | C10H16Cl2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethylene glycol | C(CO)O | C2H6O2
product | ethylene glycol sebacoyl chloride | C(CO)O.C(CCCCCCCCC(=O)Cl)(=O)Cl | InChI=1S/C10H16Cl2O2.C2H6O2/c11-9(13)7-5-3-1-2-4-6-8-10(12)14;3-1-2-4/h1-8H2;3-4H,1-2H2
